US04401661
4-Aminophenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranoside
To 27.4 g of 4-nitrophenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranoside suspended in 150 ml of acetic acid was added 2.7 g of 10% palladium-on-charcoal catalyst in a Parr hydrogenation bottle, and this was hydrogenated on a Parr hydrogenator for 17 hours. The catalyst was filtered from the solution through diatomaceous earth and washed thoroughly with methanol. The solvents were evaporated in vacuo. The residue was dissolved in one liter of toluene and again evaporated. The residue was dissolved in methylene chloride and passed through a pad of magnesium silicate and the solvent was evaporated to yield the title compound as a light yellow oil. A 3.5 g portion of this was crystallized from methanol to yield 2.6 g of an off-white crystal, m.p. 173°-175° C.

reactant | 4-nitrophenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranoside | 27.4 g | C(C)(=O)O[C@H]1[C@H](OC2=CC=C(C=C2)[N+](=O)[O-])O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O | C32H39NO20
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | 2.7 g | [Pd] | Pd
product | 4-Aminophenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=CC=C(C=C2)N)O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O | C32H41NO18
